US07612075B2
B. (+/−)-cis-4-benzyloxycarbonyl-decahydroquinoxalin-2-one.
(+/−)-cis-decahydroquinoxalin-2-one (0.8 g, 5.19 mmol) is suspended in 25 ml of H2O. NaHCO3 (0.87 g, 10.35 mmol) is added and the reaction mixture is cooled to 10° C. Benzylchloroformate (1 ml, 6.68 mmol) is added dropwise to the vigorously stirred mixture. After 20 hours at room temperature the solid is filtered, washed thoroughly with H2O, air-dried. The title compound (1.46 g, 98% yield) is obtained as a white solid. C16H20N2O3, MS (M+H)+:289

reactant | (+/−)-cis-decahydroquinoxalin-2-one | 5.19 mmol, 0.8 g | N1C(CN[C@@H]2CCCC[C@H]12)=O | C8H14N2O
reactant | NaHCO3 | 10.35 mmol, 0.87 g | C(=O)(O)[O-].[Na+]
reactant | Benzylchloroformate | 6.68 mmol, 1 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | H2O | 25 ml | O | H2O
product | (+/−)-cis-4-benzyloxycarbonyl-decahydroquinoxalin-2-one | 1.46 g, 98% yield | C(C1=CC=CC=C1)OC(=O)N1CC(N[C@H]2CCCC[C@@H]12)=O | C16H20N2O3
